US05393875
In an analogous manner to that described in Example 6, paragraphs (a) to (c), starting from 2-mercaptoisobutyric acid and ethyl 2-benzylacrylate there was obtained (RS)-2-[[2-[(ethoxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionic acid, reaction of which 2-(2-aminoethoxy)ethanol and subsequent enzymatic hydrolysis of the resulting ethyl ester yielded (S/R=9/1 )-α-[[[1-[[2-(2-hydroxyethoxy)ethyl]carbamoyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamic acid, MS: 401.9 (M+H)+, as a colourless oil.

reactant | (RS)-2-[[2-[(ethoxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionic acid | C(C)OC(=O)C(CS(=O)(=O)C(C(=O)O)(C)C)CC1=CC=CC=C1 | C16H22O6S
reactant | 2-(2-aminoethoxy)ethanol | NCCOCCO | C4H11NO2
product | α-[[[1-[[2-(2-hydroxyethoxy)ethyl]carbamoyl]-1-methylethyl]sulfonyl]methyl]hydrocinnamic acid | OCCOCCNC(=O)C(C)(C)S(=O)(=O)CC(C(=O)O)CC1=CC=CC=C1 | C18H27NO7S
